US05574064
Synthesis of N1 -[2-(4-cyanophenoxy)-1-methylethyl]-N2 -(phenylthio)thiocarbonyl-L-valinamide (Compound No. 211)
0.5 g of N-methylmorpholine was added to a suspension containing 1.4 g of N1 -[2-(4-cyanophenoxy)-1-methylethyl]-L-valinamide suspended in 40 ml of methylene chloride, at -15° C. After 0.9 g of phenyl chlorodithioformate was added to the mixture at -15° C., the reaction mixture was allowed to sit and, warm naturally to room temperature while being stirred, and was stirred for 15 hours at room temperature. Water was subsequently added to the reaction mixture. After the methylene chloride layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and the methylene chloride was removed under reduced pressure. The residue was purified by column chromatography on silica gel, thus obtaining 1.4 g of the desired product in the form of a yellow glutinous substance (yield: 66%).

reactant | N-methylmorpholine | 0.5 g | CN1CCOCC1 | C5H11NO
reactant | N1 -[2-(4-cyanophenoxy)-1-methylethyl]-L-valinamide | 1.4 g | C(#N)C1=CC=C(OCC(C)NC([C@@H](N)C(C)C)=O)C=C1 | C15H21N3O2
reactant | phenyl chlorodithioformate | 0.9 g | ClC(=S)SC1=CC=CC=C1 | C7H5ClS2
reactant | Water | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N1 -[2-(4-cyanophenoxy)-1-methylethyl]-N2 -(phenylthio)thiocarbonyl-L-valinamide | 1.4 g, yield: 66% | C(#N)C1=CC=C(OCC(C)NC([C@@H](NC(=S)SC2=CC=CC=C2)C(C)C)=O)C=C1 | C22H25N3O2S2
